US04575514
2-Propyl N-{Amino[(3-chlorophenyl)aminocarbonyl]iminomethyl}-N-methylglycinate hydrochloride
A 5.0 g sample of N-{amino[(3-chlorophenyl)aminocarbonyl]iminomethyl}-N-methylglycine was stirred in 200 ml of 4% hydrogen chloride in 2-propanol for 30 minutes. The undissolved solid was removed by filtration. The filtrate was stirred for 24 hours at 25°. The solution was cooled and the precipitated white crystalline 2-propyl N-{amino[(3-chlorophenyl)aminocarbonyl]iminomethyl}-N-methylglycinate, 3.5 g (55% yield), was collected and dried, m.p. 185° C. (d).

reactant | N-{amino[(3-chlorophenyl)aminocarbonyl]iminomethyl}-N-methylglycine | NC(N(CC(=O)O)C)=NC(=O)NC1=CC(=CC=C1)Cl | C11H13ClN4O3
reactant | 2-propanol | CC(C)O | C3H8O
solvent | hydrogen chloride | 200 ml | Cl | ClH
product | 2-Propyl N-{Amino[(3-chlorophenyl)aminocarbonyl]iminomethyl}-N-methylglycinate hydrochloride | 55% yield | Cl.NC(N(CC(=O)OC(C)C)C)=NC(=O)NC1=CC(=CC=C1)Cl | InChI=1S/C14H19ClN4O3.ClH/c1-9(2)22-12(20)8-19(3)13(16)18-14(21)17-11-6-4-5-10(15)7-11;/h4-7,9H,8H2,1-3H3,(H3,16,17,18,21);1H
